US04124640
In accordance with the process of Example 1, 150 ml of dimethyl sulfoxide, 19.4 g (0.3 mole) of ethyl chloride, 8.8 g (0.22 mole) of sodium hydroxide and 21.8 g (0.22 mole) of p-hydroxyaniline were charged in the autoclave and the reaction was carried out at 80° C. for 5 hours with stirring to obtain 24.7 g of p-ethoxyaniline having a boiling point of 123.5° to 124.5° C./10 mmHg. (yield: 90.1%).

reactant | ethyl chloride | 0.3 mole, 19.4 g | C(C)Cl | C2H5Cl
reactant | sodium hydroxide | 0.22 mole, 8.8 g | [OH-].[Na+]
reactant | p-hydroxyaniline | 0.22 mole, 21.8 g | OC1=CC=C(N)C=C1 | C6H7NO
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
product | p-ethoxyaniline | 24.7 g, yield: 90.1% | C(C)OC1=CC=C(N)C=C1 | C8H11NO
